US07576099B2
Preparation of 4-(cyclopentylethynyl)benzoic acid
The same procedure was followed as for 4-(3,3-dimethylbut-1-ynyl)benzoic acid, with the exception that ethynylcylopentane was used in place of 3,3-dimethylbut-1-yne.

reactant | 4-(3,3-dimethylbut-1-ynyl)benzoic acid | CC(C#CC1=CC=C(C(=O)O)C=C1)(C)C | C13H14O2
reactant | ethynylcylopentane | C(#C)C1CCCC1 | C7H10
product | 4-(cyclopentylethynyl)benzoic acid | C1(CCCC1)C#CC1=CC=C(C(=O)O)C=C1 | C14H14O2
